US07109354B2
a) {Imino-[5-methylsulfanyl-4-(6′-methyl-2′-{3-[2-(2H-tetrazol-5-yl)-ethyl]-ureido}-biphenyl-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester
A mixture of [(4-{2′-[3-(2-cyano-ethyl)-ureido]-6′-methyl-biphenyl-3-sulfonyl}-5-methylsulfanyl-thiophen-2-yl)-imino-methyl]-carbamic acid tert-butyl ester (31 mg, 51 μmol), as prepared from {[4-(2′-amino-6′-methyl-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester and 3-aminopropionitrile according to the procedure of step e of Example 179, azidotrimethylsilane (40 μL, 0.30 mmol), dibutyltin oxide (3.5 mg, 10 μmol), and toluene (1.5 mL) was heated at 70° C. for 16 h and 80° C. for 4 h. The mixture was concentrated and purified by flash chromatography on silica gel, eluting with EtOAc/DCM (50, 100%) followed by MeOH/DCM (5, 10%) to give the title compound (14 mg, 42% yield) as a colorless oil.

reactant | [(4-{2′-[3-(2-cyano-ethyl)-ureido]-6′-methyl-biphenyl-3-sulfonyl}-5-methylsulfanyl-thiophen-2-yl)-imino-methyl]-carbamic acid tert-butyl ester | 51 μmol, 31 mg | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(=O)NCCC#N)SC)=O | C28H31N5O5S3
reactant | {[4-(2′-amino-6′-methyl-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)N)SC)=O | C24H27N3O4S3
reactant | 3-aminopropionitrile | NCCC#N | C3H6N2
reactant | azidotrimethylsilane | 0.30 mmol, 40 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 10 μmol, 3.5 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | {Imino-[5-methylsulfanyl-4-(6′-methyl-2′-{3-[2-(2H-tetrazol-5-yl)-ethyl]-ureido}-biphenyl-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester | 14 mg, 42% yield | C(C)(C)(C)OC(NC(C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(=O)NCCC=1N=NNN1)SC)=N)=O | C28H32N8O5S3
